US04405816
In the article "Nuclear Cyanation of Methylanisoles" by K. Yoshida, M. Shigi and T. Fueno in J. Org. Chem., 1975, Vol. 40, No. 1, pp. 63-66, the reaction of 4-methoxytoluene (Ic) in a methanolic solution of NaCN or Na acetate is described. In this reaction, 4-(methoxymethyl)-anisole and, in a material (current) yield of 15% (24%) of the theoretical, anisaldehyde-dimethylacetal (IIc) are also formed, in addition to the respective ring-substitution products.

reactant | 4-methoxytoluene | COC1=CC=C(C=C1)C | C8H10O
reactant | NaCN | [C-]#N.[Na+]
reactant | 4-(methoxymethyl)-anisole | COCC1=CC=C(C=C1)OC | C9H12O2
product | anisaldehyde-dimethylacetal | yield of 15% | COC(C1=CC=C(C=C1)OC)OC | C10H14O3
